US09371448B2
was prepared according to general procedure (A), in which 28 μg 4-methoxyaniline (0.22 mmol, 1 equiv), 24 μl formalin (0.34 mmol, 1.5 equiv), 0.14 mL 3.14 M hydrochloric acid in ethanol (0.45 mmol, 2 equiv) and 57 mg (4-(diethylamino)phenyl)(pyridin-2-yl)methanone (0.22 mmol, 1 equiv) were combined in 0.45 mL ethanol and maintained at room temperature for 12 hours. The reaction was concentrated in vacuo and dried under high vacuum at 0.2 Torr. The crude material was triturated with 1.5 mL acetone, which resulted in the formation of a solid. The suspension was then filtered and rinsed with (2:1) acetone/diethylether three times using 1 mL of (2:1) acetone/diethylether for each rinse. The resulting solid was dried under high vacuum at 0.2 Torr for 48 hours to provide 80 mg 1-(4-(diethylamino)phenyl)-2-(4-methoxyphenyl)-2H-imidazo[1,5-a]pyridin-4-ium chloride (0.18 mmol, a 80% yield) as a cream colored solid. This material was determined to be the monocationic salt by titration with sodium hydroxide.

reactant | 4-methoxyaniline | 0.22 mmol, 28 μg, 1 equiv | COC1=CC=C(N)C=C1 | C7H9NO
reactant | formalin | 0.34 mmol, 24 μl, 1.5 equiv | C=O | CH2O
reactant | hydrochloric acid | 3.14 M, 0.14 mL | Cl | ClH
reactant | (4-(diethylamino)phenyl)(pyridin-2-yl)methanone | 0.22 mmol, 57 mg, 1 equiv | C(C)N(C1=CC=C(C=C1)C(=O)C1=NC=CC=C1)CC | C16H18N2O
solvent | ethanol | 0.45 mL | C(C)O | C2H6O
solvent | ethanol | 0.45 mmol, 2 equiv | C(C)O | C2H6O
product | 1-(4-(diethylamino)phenyl)-2-(4-methoxyphenyl)-2H-imidazo[1,5-a]pyridin-4-ium chloride | 80 mg, 80% yield | [Cl-].C(C)N(C1=CC=C(C=C1)C=1N(C=[N+]2C1C=CC=C2)C2=CC=C(C=C2)OC)CC | InChI=1S/C24H26N3O.ClH/c1-4-25(5-2)20-11-9-19(10-12-20)24-23-8-6-7-17-26(23)18-27(24)21-13-15-22(28-3)16-14-21;/h6-18H,4-5H2,1-3H3;1H/q+1;/p-1
